US07279481B2
2-Methyl-5-quinolinyl trifluoromethanesulfonate
5-Hydroxy-2-methylquinoline hydrobromide (WO2002034754, Chem. Abstr. 136:355241, 1 wt, 1 eq) was suspended in ethyl acetate (20 vol) and a saturated solution of sodium hydrogen carbonate (7 vol) was added. The organic layer was washed with a saturated solution of sodium hydrogen carbonate (7 vol) and the two layers were separated. The organic layer was concentrated to 2 vol then ethyl acetate (2×3 vol) was added and the mixture was concentrated to 2 vol each time. Toluene was added (2×10 vol) and the mixture was concentrated to 2 vol each time to give a suspension of 5-hydroxy-2-methylquinoline. Toluene (9 vol) and pyridine (0.68 vol, 1.33 eq) were added under nitrogen at room temperature. The mixture was cooled to 0° C. and triflic anhydride (1.27 vol, 1.2 eq) was added dropwise maintaining the temperature at 0° C., then warming to 25° C. for 3 hours. A saturated aqueous solution of ammonium chloride (7 vol) was added and the mixture was stirred for 10 minutes. The two layers were separated and the organic layer was washed with water (7 vol), a 4% solution of sodium hydrogencarbonate (7 vol), water (7 vol), then concentrated to 3 volumes. Toluene (2×7 vol) was added and the mixture concentrated to 3 volumes to give a crude brown solution of the title compound (70% th), which was used without further purification.

reactant | 5-Hydroxy-2-methylquinoline hydrobromide | 1 eq | Br.OC1=C2C=CC(=NC2=CC=C1)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | 5-hydroxy-2-methylquinoline | OC1=C2C=CC(=NC2=CC=C1)C | C10H9NO
reactant | pyridine | 1.33 eq | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 1.2 eq | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Methyl-5-quinolinyl trifluoromethanesulfonate | 70% | FC(S(=O)(=O)OC1=C2C=CC(=NC2=CC=C1)C)(F)F | C11H8F3NO3S
